US07390925B2
Step D: (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-(4-methoxyphenyl)-3-oxopropanamido)methylenecarbamate
A mixture of (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-hydroxy-3-(4-methoxyphenyl)propanamido)methylenecarbamate (26 mg) and MnO2 in dichloromethane (0.10 mL) was stirred at 50° C. for 12 h. The crude reaction mixture was filtered and concentrated under vacuum to give the title compound as a yellow sticky oil (17 mg, 66% yield). 1H NMR (400 MHz, CDCl3) δ 1.43-1.51 (9H, m), 1.11 (3H, s), 3.76-3.90 (5H, m), 4.35-4.69 (2H, m), 6.75-7.25 (4H, m), 7.26-7.90 (3H, m), 8.70 (1H, brd s), 11.90 (1H, brd s). HPLC retention time: 2.775 min (method A). MS (ESI) (M+H)+ 551.01.

reactant | (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-hydroxy-3-(4-methoxyphenyl)propanamido)methylenecarbamate | 26 mg | C(C)(=O)NC1=C(C=C(CN/C(/NC(CC(C2=CC=C(C=C2)OC)O)=O)=N\C(OC(C)(C)C)=O)C=C1Cl)Cl | C25H30Cl2N4O6
solvent | dichloromethane | 0.10 mL | ClCCl | CH2Cl2
catalyst | MnO2 | O=[Mn]=O
product | (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-(4-methoxyphenyl)-3-oxopropanamido)methylenecarbamate | 17 mg, 66% yield | C(C)(=O)NC1=C(C=C(CN/C(/NC(CC(=O)C2=CC=C(C=C2)OC)=O)=N\C(OC(C)(C)C)=O)C=C1Cl)Cl | C25H28Cl2N4O6
